Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall, Confusion
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ female not on other medications who presents status
post fall with right wrist, hip and groin pain. 

Collateral from nurse:
Patient normally has a commode next to her bed. It was removed
and she was told so. But she got up later in the evening,
forgetting it was removed and tried to sit down on it and landed
on her bottom. She was put back in bed but shortly after wanted
to get up and use the commode again. Feeling she was confused 
she
was brought to the ED.

Patient denies any dysuria, fevers, chills, flank pain. Nurse
accompanying patient from home does report patient complained
recently of dysuria.
 
Past Medical History:
None
 
Social History:
___
Family History:
NC
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
Vitals-  98.0, 127/80, 101, 16, 96% RA
GENERAL: AOx3, NAD
HEENT: AT/NC, Left eye shut, blind in left eye (old)
CV: irregularly irregular, no m/r/g
PULM: good air movement, no w/r/c
GI: S/ND/NT
GU: No CVA tenderness, no suprapubic tenderness

DISCHARGE PHYSICAL EXAM:
========================
Vitals- Afebrile, normotensive, mild tachycardia, satting well 
RA
GENERAL: AOx3, NAD
HEENT: AT/NC, Left eye shut, blind in left eye (old)
CV: irregularly irregular, no m/r/g
PULM: good air movement, no w/r/c
GI: S/ND/NT
GU: No CVA tenderness, no suprapubic tenderness
 
Pertinent Results:
ADMISSION LABS:
===============
___ 04:50PM BLOOD WBC-10.8* RBC-5.36* Hgb-13.9 Hct-42.6 
MCV-80* MCH-25.9* MCHC-32.6 RDW-15.8* RDWSD-44.5 Plt ___
___ 04:50PM BLOOD Neuts-76.9* Lymphs-13.6* Monos-7.7 
Eos-0.6* Baso-0.6 Im ___ AbsNeut-8.35* AbsLymp-1.47 
AbsMono-0.83* AbsEos-0.06 AbsBaso-0.06
___ 04:50PM BLOOD ___ PTT-32.4 ___
___ 04:50PM BLOOD Plt ___
___ 04:50PM BLOOD Glucose-101* UreaN-9 Creat-0.7 Na-139 
K-4.5 Cl-102 HCO3-24 AnGap-13
___ 04:50PM BLOOD cTropnT-<0.01

DISCHARGE LABS:
===============
___ 05:10PM BLOOD WBC-9.9 RBC-5.50* Hgb-14.1 Hct-43.6 
MCV-79* MCH-25.6* MCHC-32.3 RDW-15.9* RDWSD-45.2 Plt ___
___ 05:10PM BLOOD Plt ___
___ 05:10PM BLOOD Glucose-126* UreaN-10 Creat-0.7 Na-137 
K-3.8 Cl-101 HCO3-22 AnGap-14
___ 05:10PM BLOOD Calcium-8.8 Phos-3.1 Mg-2.1
___ 01:32AM BLOOD Lactate-1.5

IMAGING:
========
CTH: 1. No acute intracranial process. 
2. No fracture. 

CT Pelvis:
1. Minimally displaced left inferior pubic ramus fracture.  No 
associated 
hematoma. 
2. 1.1 cm nodule along the anterior bladder wall at the midline 
is of unclear 
etiology.  Recommend nonemergent bladder ultrasound to further 
assess. 

XR Wrist:
Diffuse osteopenia without evidence of acute fracture

CT C-spine:
1. No acute fracture or traumatic malalignment. 
2. Multilevel degenerative change of the cervical spine. 
3. Mild compression deformity of the T4 vertebral body is likely 
chronic. 
4. 3 mm right upper lobe pulmonary nodule.  Optional chest CT in 
12 months is recommended for high risk patients. 

 
Brief Hospital Course:
___ female with no notable past medical history presents 
status post fall with a nonsurgical minimally displaced pelvic 
fracture and urinary tract infection.

# Left inferior pubic ramus fracture
Patient fell on her gluteus, and no loss of consciousness, no 
head trauma. Imaging showed left inferior pubic ramus fracture, 
orthopedics was consulted who recommended no surgery and that 
the patient was weightbearing as tolerated. She was offered pain 
control which she refused. Physical therapy saw the patient who 
recommended rehab. She was amenable to this plan and was 
discharged to rehab.

# Urinary tract infection
Per nursing at her facility she was reporting urinary pain. 
Urinalysis positive for urinary tract infection, no signs or 
symptoms on exam or imaging of pyelonephritis or urosepsis. 
Given goal of minimizing medications due to her beliefs, she was 
treated with Bactrim for a 3 day course of antibiotics. Her 
confusion was ultimately attributed to her urinary tract 
infection. She was at baseline by the time she arrived on the 
floor.

# Fall
Fall likely mechanical in the setting of confusion. She did not 
remember that her commode had been moved and try to sit on it 
when it was not there. No history imaging or exam findings 
concerning for seizure or syncope.

# Atrial fibrillation
Patient noted to be irregularly irregular, EKG shows atrial 
fibrillation. ChadsVasc 3. Discussion was held about the risks 
and benefits of anticoagulation and the risk of stroke. which 
the patient found acceptable and declined treatment.

#Follow up
Recommended strong that the patient establish care with a PCP 
which she declined. Risks and benefits discussed, she 
understood.

# Ulceration on head
Patient was noted to have a large 2" shallow ulceration with 
surrounding induration, flaky skin concerning for basal cell 
carcinoma or other malignancy. Options were presented for the 
patient, including dermatology consult and likely biopsy of the 
lesion. Extensive conversation was held about the next steps and 
she requested to have a little time to think and follow up with 
our team in clinic in ___ weeks to talk some more. Her rehab 
facility was contacted who said they could provide 
transportation for this appointment.

====================
TRANSITIONAL ISSUES:
====================
[ ] Please follow up with Dr. ___ your head skin lesion
 -- You will get a call in the next ___ days for your 
appointment. If you do not hear back, please call ___.

[ ] Please follow up with a PCP
 -- ___ up incidental lung nodule with 12 mo CT if high risk
 -- Follow up incidental bladder nodule with ultrasound

Treatment Plan:
Progress functional mobility including bed mobility, transfers,
gait and stairs as tolerated.
Balance training
Pt/caregiver education RE: fall risk
D/C planning

Frequency/Duration: ___ for 1 week

Recommendations for Nursing:
Pt is at high risk for deconditioning please encourage frequent
mobility and maximize independence in ADLs.
Amb with RW and CGA 3x/day.
Assist of 1 for out of bed to chair with RW 3x/day.
Limit sitting time to one hour on air cushion given patient's
inability to effectively reposition in chair.
Please use chair alarm when out of bed.
Normalize sleep-wake cycle to decrease risk of delirium.

=====================
Full code
HCP: ___ (Son)
___
 
Medications on Admission:
None
 
Discharge Medications:
None
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left Inferior Pubic Ramus Fracture
Urinary Tract Infection
Atrial Fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you at ___. 

WHY DID YOU COME TO THE HOSPITAL?
- You came to the hospital because you had a fall and were more 
confused.

WHAT HAPPENED WHILE YOU WERE HERE?
- You had images which showed a small fracture in your pelvis 
which did not require surgery.

- You were found to have a urinary tract infection which was the 
cause of your confusion. You were given antibiotics to treat 
your urinary tract infection. 

- You were seen by physical therapy who recommended a rehab 
facility to build back your strength.

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL?
- Please continue to take all of your medications as directed, 
and follow up with all of your doctors. 

Again, it was a pleasure taking care of you!

Sincerely, 

Your ___ Team
 
Followup Instructions:
___